US09388161B2
A 50-mL round-bottom flask was charged with a solution of 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole hydrobromide (100 mg, 0.53 mmol) in dichloromethane (5 mL). Sodium hydride (30 mg, 1.20 mmol) was added, and the reaction mixture stirred at room temperature for 15 min. Di-tert-butyl dicarbonate (232 mg, 1.06 mmol) and 4-dimethylaminopyridine (6.5 mg, 0.05 mmol) were added, and the resulting mixture stirred for 3.5 h at room temperature. The reaction mixture was poured into 10 mL of water and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×50 mL). The organic layers were combined, washed with brine (3×20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 35% ethyl acetate-petroleum ether) to afford tert-butyl 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carboxylate (100 mg, 65%) as a white solid. MS (ESI, pos. ion) m/z 288, 290 [M+H]+.

reactant | 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole hydrobromide | 0.53 mmol, 100 mg | Br.BrC1=C2N(N=C1)CCN2
reactant | Sodium hydride | 1.20 mmol, 30 mg | [H-].[Na+]
reactant | Di-tert-butyl dicarbonate | 1.06 mmol, 232 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 6.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 7-bromo-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carboxylate | 100 mg, 65% | BrC1=C2N(N=C1)CCN2C(=O)OC(C)(C)C | C10H14BrN3O2
